US04841067
To a solution of 12 g of methyltriphenylphosphonium bromide in 100 ml of dry tetrahydrofuran was added 19.5 ml of n-butyl lithium (as a 1.6 mole hexane solution) under an argon atmosphere, and the mixture was stirred for 1 hour at room temperature. The reaction mixture was cooled below 5° C., and a solution of 7.5 g of N-carbobenzoxy-L-leucinal in 20 ml of dry tetrahydrofuran was added to the reaction mixture. The mixture was stirred for 1 hour at room temperature. An aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: dichloromethane) to obtain 1.6 g of (3S)-3-carbobenzoxyamino-5-methyl-1-hexene as a colorless oil.

reactant | n-butyl lithium | 19.5 ml | C(CCC)[Li]
reactant | hexane | 1.6 mole | CCCCCC | C6H14
reactant | N-carbobenzoxy-L-leucinal | 7.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C=O | C14H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | methyltriphenylphosphonium bromide | 12 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (3S)-3-carbobenzoxyamino-5-methyl-1-hexene | 1.6 g | C(=O)(OCC1=CC=CC=C1)N[C@H](C=C)CC(C)C | C15H21NO2
